US07888364B2
Ethyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzimidate (2.0 ml of a 0.075 M methanol solution, 0.15 mmol) was treated with 3-methoxypropan-1-amine (23 μl, 0.23 mmol) via procedure W to afford 68 mg of N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(N-(3-methoxypropyl)carbamimidoyl)-benzamide. MS (Q1) 423 (M)+.

reactant | Ethyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzimidate | ClC1=C(C=C(C=C1)NC(=O)C1=CC=C(C(OCC)=N)C=C1)C1=NC=CC=C1 | C21H18ClN3O2
reactant | 3-methoxypropan-1-amine | 0.23 mmol, 23 μl | COCCCN | C4H11NO
solvent | methanol | 0.075 M | CO | CH4O
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(N-(3-methoxypropyl)carbamimidoyl)-benzamide | 68 mg | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)C(NCCCOC)=N)=O)C1=NC=CC=C1 | C23H23ClN4O2
